US07737166B2
Benzyl [(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)methyl]methylcarbamate (I-272)
At room temperature, 1-hydroxybenzotriazole (184 mg, 1.36 mmol), 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride (249 mg, 1.30 mmol) and triethylamine (190 μl, 1.36 mmol) were added to an acetonitrile (12 ml) solution of 4-amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile (I-41) (300 mg, 1.24 mmol) and N-[(benzyloxy)carbonyl]-N-methylglycine (290 mg, 1.30 mmol), followed by stirring at room temperature for 16 hours. The reaction liquid was concentrated under reduced pressure, dissolved in ethyl acetate, and washed with water and saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, the residue obtained by concentration was dissolved in xylene (20 ml), then pyridinium p-toluenesulfonate (120 mg) was added, followed by heating under reflux in an oil bath at 160° C. for 6 hours. The reaction liquid was concentrated under reduced pressure, dissolved in ethyl acetate, washed with saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by filtration was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=3:1, v/v) to obtain the entitled compound (242 mg, 46%) as a colorless foamy substance.

reactant | 1-hydroxybenzotriazole | 1.36 mmol, 184 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride | 1.30 mmol, 249 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 1.36 mmol, 190 μl | C(C)N(CC)CC | C6H15N
reactant | 4-amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile | 1.24 mmol, 300 mg | NC1=C(C(=C(C(=C1O)F)C1=CC=CC=C1)C)C#N | C14H11FN2O
reactant | N-[(benzyloxy)carbonyl]-N-methylglycine | 1.30 mmol, 290 mg | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)C | C11H13NO4
reactant | pyridinium p-toluenesulfonate | 120 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | Benzyl [(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)methyl]methylcarbamate | 242 mg, 46% | C(#N)C1=C(C(=C(C2=C1N=C(O2)CN(C(OCC2=CC=CC=C2)=O)C)F)C2=CC=CC=C2)C | C25H20FN3O3
